US04546101
Nicotinaldehyde (1.1 g) was added to a solution of {4-benzhydryloxycarbonyl-7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-cephem-3-ylmethyl}triphenylphosphonium chloride (syn isomer) (3.0 g) in tetrahydrofuran (30 ml) and water (15 ml) and the solution was adjusted to pH 9.0 with 20% aqueous sodium carbonate. The solution was stirred at ambient temperature for 2 hours under keeping the pH 8.8 to 9.2 with 20% aqueous potassium carbonate. Ethyl acetate and water were added to the resulting solution. The separated organic layer was washed with saturated aqueous sodium chloride and dried over magnesium sulfate. The crude product obtained by concentration was purified by silica gel column chromatography using a mixture of acetone and dichloromethane (rate 1:1) as eluent. The eluted fractions were evaporated to give benzhydryl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-[2-(3-pyridyl)vinyl]-3-cephem-4-carboxylate (syn isomer) (cis-trans mixture) (1.1 g).

reactant | Nicotinaldehyde | 1.1 g | C(C1=CN=CC=C1)=O | C6H5NO
reactant | {4-benzhydryloxycarbonyl-7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-cephem-3-ylmethyl}triphenylphosphonium chloride | 3.0 g | [Cl-].C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C(C2NC(C(=NOCC)C2=NSC(=N2)N)=O)=O)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 15 ml | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzhydryl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-[2-(3-pyridyl)vinyl]-3-cephem-4-carboxylate | 1.1 g | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CC=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC | C33H29N7O5S2
